US06110960
6-Bromo-8-tert-butyl-4,4-dimethyl-2,3-dihydrobenzopyran.
To a cold (0° C.) suspension of AlCl3 (1.67 g, 12.51 mmol, 1 equiv) in nitromethane (20 mL) is added a solution of 4-bromo-2-tert-butyl-1-(3-hydroxy-3-methylbutoxy)benzene (3.94 g, 12.51 mmol) in nitromethane (5 mL). The resulting red solution is stirred at 0° C. After 1 h, the reaction mixture is quenched by slow addition of water, diluted with hexanes, and washed with water and brine. The aqueous layers are extracted with hexanes; the combined organic layers are dried (MgSO4), filtered and concentrated. The residue is purified by flash column chromatography on silica (hexanes) to give the title compound (2.87 g, 77%) as a solid which is recrystallized using hexanes to give white crystals.

reactant | AlCl3 | 12.51 mmol, 1.67 g, 1 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-bromo-2-tert-butyl-1-(3-hydroxy-3-methylbutoxy)benzene | 12.51 mmol, 3.94 g | BrC1=CC(=C(C=C1)OCCC(C)(C)O)C(C)(C)C | C15H23BrO2
solvent | nitromethane | 20 mL | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 5 mL | [N+](=O)([O-])C | CH3NO2
product | 6-Bromo-8-tert-butyl-4,4-dimethyl-2,3-dihydrobenzopyran | 2.87 g, 77% | BrC=1C=C(C2=C(C(CCO2)(C)C)C1)C(C)(C)C | C15H21BrO
